US08378104B2
Step E: trans-4-{4-[7-amino-2-(phthalazin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol (Title Compound)
The title compound was prepared from 4-iodo-2-(phthalazin-5-yl)furo[2,3-c]pyridin-7-amine and 1-[4-(tert-butyldimethylsilanyloxy)-cyclohexyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole by a procedure analogous to Example 365, Step F. 1H NMR (400 MHz, DMSO-d6): δ 10.39 (s, 1H), 9.80 (d, J=1.26 Hz, 1H), 8.65 (d, J=7.33 Hz, 1H), 8.25-8.35 (m, 2H), 8.20 (t, J=7.80 Hz, 1H), 8.05 (s, 1H), 7.98 (s, 1H), 7.93 (s, 1H), 6.54 (br s, 2H), 4.68 (d, J=4.29 Hz, 1H), 4.18 (tt, J=3.73, 11.43 Hz, 1H), 3.48-3.59 (m, 1H), 2.07 (br d, J=12.10 Hz, 2H), 1.81-2.01 (m, 4H), 1.31-1.44 (m, 2H); MS (ESI): 427.01 [M+H]+; HPLC tR=2.38 min (ZQ3: polar—5 min).

reactant | 4-iodo-2-(phthalazin-5-yl)furo[2,3-c]pyridin-7-amine | IC1=C2C(=C(N=C1)N)OC(=C2)C2=C1C=NN=CC1=CC=C2 | C15H9IN4O
reactant | 1-[4-(tert-butyldimethylsilanyloxy)-cyclohexyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C21H39BN2O3Si
product | trans-4-{4-[7-amino-2-(phthalazin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}cyclohexanol | NC=1N=CC(=C2C1OC(=C2)C2=C1C=NN=CC1=CC=C2)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O | C24H22N6O2
